US07393867B2
Method 5: 2,6-Bis-phenylsulfanyl-4H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide
Add diphenyldisulfide (93 mg, 0.43 mmol, 1.25 eq) to a mixture of 2-bromo-4H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide (85 mg, 0.34 mmol) and cesium carbonate (140 mg, 1.25 eq) in DMF (4 ml). Heat the mixture at 100° C. for 16 hours. Remove the DMF under reduced pressure and partition the residue between water and ethyl acetate. Wash the organic phase with brine, and then dry and filter the organic phase. Add the filtrate to a flask containing a small amount of silica gel (about 0.5 gm) and evaporate the solvent to provide the crude product adsorbed onto the silica gel. Place the silica gel on top of a small column containing about 4 gm of silica gel and elute with 0-10% of MeOH in DCM to provide 8 mg (6.5%) of the title compound.

reactant | diphenyldisulfide | 0.43 mmol, 93 mg, 1.25 eq | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 2-bromo-4H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide | 0.34 mmol, 85 mg | BrC=1SC2=C(N1)C=C(N2)C(=O)N | C6H4BrN3OS
reactant | cesium carbonate | 140 mg, 1.25 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2,6-Bis-phenylsulfanyl-4H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide | 8 mg, 6.5% | C1(=CC=CC=C1)SC=1SC2=C(N1)C(=C(N2)C(=O)N)SC2=CC=CC=C2 | C18H13N3OS3
